US07259179B2
6-(2-Methyl-1H-imidazol-1-yl)-N-[(1R)-1-phenylethyl]pyrazin-2-amine
In a procedure analogous to example 2, reaction of 6-chloro-N-[(1R)-1-phenylethyl]pyrazin-2-amine (150 mg, 0.64 mmol) and 2-methylimidazole (58 mg, 0.71 mmol) furnished the product (172 mg, 40%).

reactant | 6-chloro-N-[(1R)-1-phenylethyl]pyrazin-2-amine | 0.64 mmol, 150 mg | ClC1=CN=CC(=N1)N[C@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | 2-methylimidazole | 0.71 mmol, 58 mg | CC=1NC=CN1 | C4H6N2
product | 6-(2-Methyl-1H-imidazol-1-yl)-N-[(1R)-1-phenylethyl]pyrazin-2-amine | 172 mg, 40% | CC=1N(C=CN1)C1=CN=CC(=N1)N[C@H](C)C1=CC=CC=C1 | C16H17N5
